US05968958
Step 3: 6-Chloro-5-nitro-3H-isobenzofuran-1-one
To a solution of 2-acetoxymethyl-5-chloro-4-nitrobenzonitrile (19.5 g, 77 mmol) in MeOH:THF (600 mL, 2:1) was added a solution of 1M aqueous NaOH (100 mL, 100 mmol). After stirring at room temperature for 30 min. TLC showed no starting material remaining. The mixture was acidified with 6M aqueous HCl (100 mL, 0.6 mol), heated at 60° C. for 1 h, cooled to room temperature and stirred for 6 h. Volatile solvents were evaporated in vacuo. The residue was suspended in H2O and filtered. The solid collected was washed with H2O and dried under vacuum to give the title compound (14.5 g, 88%) as an orange-yellow solid. 1H NMR (CDCl3): δ 8.11 (s, 1H), 7.92 (s, 1H), 5.40 (s, 2H).

reactant | 2-acetoxymethyl-5-chloro-4-nitrobenzonitrile | 77 mmol, 19.5 g | C(C)(=O)OCC1=C(C#N)C=C(C(=C1)[N+](=O)[O-])Cl | C10H7ClN2O4
reactant | THF | 600 mL | C1CCOC1 | C4H8O
reactant | NaOH | 100 mmol, 1M, 100 mL | [OH-].[Na+]
reactant | HCl | 0.6 mol, 6M, 100 mL | Cl | ClH
solvent | MeOH | CO | CH4O
product | 6-Chloro-5-nitro-3H-isobenzofuran-1-one | 14.5 g, 88% | ClC1=C(C=C2COC(C2=C1)=O)[N+](=O)[O-] | C8H4ClNO4
